US07271197B2
i) 3-[(2-{4-[2-({(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)ethyl]phenoxy}ethoxy)methyl]benzamide hydrochloride salt
To a solution of 3-[(2-{4-[2-({(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)ethyl]phenoxy}ethoxy)methyl]benzamide (25 mg) in iso-propanol (0.45 ml) was added hydrochloric acid (12M, 5.1 μl). A heat-cool cycle was applied between 0° C. and 40° C., and the mixture agitated for 90 h. The precipitate was filtered to give the title compound (20 mg). Mp 151- 153° C.; 1H NMR δ (CD3OD, 400 MHz) 7.88 (1H, br s), 7.78 (1H, br d, J 8 Hz), 7.55 (1H, d, J 8 Hz), 7.43 (1H, t, J 8 Hz), 7.34 (1H, br d, J 2 Hz), 7.22-7.13 (3H, m), 6.92 (2H, br d, J 8 Hz), 6.77 (1H, d, J 8 Hz), 4.65 (4H, d, J 7 Hz), 4.16-4.11 (2H, br t, J 4 Hz), 3.87-3.81 (2H, br t, J 4 Hz), 3.27-3.20 (2H, br t, J 8 Hz), 2.98-2.90 (2H, m).

reactant | 3-[(2-{4-[2-({(2R)-2-hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)ethyl]phenoxy}ethoxy)methyl]benzamide | 25 mg | O[C@@H](CNCCC1=CC=C(OCCOCC=2C=C(C(=O)N)C=CC2)C=C1)C1=CC(=C(C=C1)O)CO | C27H32N2O6
reactant | hydrochloric acid | 12M, 5.1 μl | Cl | ClH
solvent | iso-propanol | 0.45 ml | C(C)(C)O | C3H8O
product | 3-[(2-{4-[2-({(2R)-2-Hydroxy-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)ethyl]phenoxy}ethoxy)methyl]benzamide hydrochloride salt | 20 mg | Cl.O[C@@H](CNCCC1=CC=C(OCCOCC=2C=C(C(=O)N)C=CC2)C=C1)C1=CC(=C(C=C1)O)CO | InChI=1S/C27H32N2O6.ClH/c28-27(33)22-3-1-2-20(14-22)18-34-12-13-35-24-7-4-19(5-8-24)10-11-29-16-26(32)21-6-9-25(31)23(15-21)17-30;/h1-9,14-15,26,29-32H,10-13,16-18H2,(H2,28,33);1H/t26-;/m0./s1
